US03985709
To a clean dry 250 ml. round bottom 3-neck flask equipped with a magnetic stirrer, thermometer and addition funnel was added 6.69 g. (0.02 mole) of 3,5-di-t-butyl-4-hydroxy -benzylpyridinium chloride in 100 ml. of ethanol and 2.36 g. (0.022 mole) of nitrosobenzene. The clear solution was cooled to 0° to 5° C. and sodium hydroxide (2.45 g.; 0.06 mole) in 60 ml. of water was added dropwise in 40 minutes. The reaction mixture was stirred an additional 3 hours at ambient temperature and then diluted with 50 ml. water, filtered, and the collected product dried to yield 5.07 g. (79.2% yield) of 1-(3,5-di-t-butyl-4-hydroxyphenyl)-N-phenyl-nitrone, MP-137°-140° C.

reactant | 3,5-di-t-butyl-4-hydroxy -benzylpyridinium chloride | 0.02 mole | [Cl-].C(C)(C)(C)C=1C=C(C[N+]2=CC=CC=C2)C=C(C1O)C(C)(C)C
reactant | ethanol | C(C)O | C2H6O
reactant | nitrosobenzene | 0.022 mole | N(=O)C1=CC=CC=C1 | C6H5NO
reactant | sodium hydroxide | 0.06 mole, 2.45 g | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(3,5-di-t-butyl-4-hydroxyphenyl)-N-phenyl-nitrone | 79.2% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1(CC=CC=C1)[N+](=C)[O-] | C21H29NO2
